US05015678
Bis(1-[2-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl oxy)-carbonylethoxy]-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
The title compound is prepared from 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate and bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate according to the general procedure of Example 2.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate | C(C=C)(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C18H31NO3
reactant | bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
product | Bis(1-[2-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl oxy)-carbonylethoxy]-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCC(OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)=C=O)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCC(OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)=C=O)(C)C | C64H110N4O12
